US05968930
N-[4-(4H-Pyrrolo[1,2-a]thieno[2,3-e][1,4]diazepin-10(9H)-ylcarbonyl)phenyl-2-methylbenzamide
To a stirred solution of 5 mmol of 2-methylbenzoyl chloride in 10 ml of methylene chloride is added 7 mmol of triethylamine and 5 mmol of 9,10-dihydro-10-(4-aminobenzoyl)-4H-pyrrolo-[1,2-a]thieno[2,3-e]-[1,4]diazepine and the mixture stirred for 5 hours. The reaction mixture is washed with water, 2N citric acid, NaHCO3, and brine. The organic layer is dried with Na2SO4, filtered and evaporated in vacuo to give a solid which is purified by flash chromatography on silica gel to give the desired product as a solid.

reactant | 2-methylbenzoyl chloride | 5 mmol | CC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO
reactant | triethylamine | 7 mmol | C(C)N(CC)CC | C6H15N
reactant | 9,10-dihydro-10-(4-aminobenzoyl)-4H-pyrrolo-[1,2-a]thieno[2,3-e]-[1,4]diazepine | 5 mmol | NC1=CC=C(C(=O)N2CC=3N(CC4=C2SC=C4)C=CC3)C=C1 | C17H15N3OS
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 4-(4H-Pyrrolo[1,2-a]thieno[2,3-e][1,4]diazepin-10(9H)-ylcarbonyl)phenyl-2-methylbenzamide | S1C=CC2=C1N(CC=1N(C2)C=CC1)C(=O)C1=CC=C(C=C1)C=1C(=C(C(=O)N)C=CC1)C | C25H21N3O2S
